plaintext
* SPICE Netlist for the Differential Amplifier
VDD 3 0 DC 5V
VIN1 1 0 DC 1V
VIN2 2 0 DC 1V
M1 4 1 2 2 NMOS
? Missing component
M3 Vout 3 4 3 PMOS
M4 Vout 3 Vout 3 PMOS
ISS 2 0 DC 1.5mA
* Model Definitions
.model NMOS nmos
.model PMOS pmos
.end
